US03991106
Step C: Preparation of 1-(2-Tetrahydropyranyloxy)-4-acetoxy-5-(4-fluorophenoxy)-trans-2-pentene
A mixture of 1-(2-tetrahydropyranyloxy)-4 -hydroxy-5-(4-fluorophenoxy)-trans-2-pentene (23.6 g., 0.08 mole), acetic anhydride (9.2 g., 0.09 mole), and pyridine (7.9 g., 0.1 mole) is heated at 55°-60° for 4 hours and then at 95° for an additional 4 hours. The solution is cooled, diluted with ether and washed with ice-cold saturated sodium carbonate solution, ice water (3×) and brine, and dried over sodium sulfate. Removal of solvent under vacuum leaves the title compound as a residual orange oil.

reactant | 1-(2-tetrahydropyranyloxy)-4 -hydroxy-5-(4-fluorophenoxy)-trans-2-pentene | 0.08 mole, 23.6 g | O1C(CCCC1)OC\C=C\C(COC1=CC=C(C=C1)F)O | C16H21FO4
reactant | acetic anhydride | 0.09 mole, 9.2 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 0.1 mole, 7.9 g | N1=CC=CC=C1 | C5H5N
solvent | ether | CCOCC | C4H10O
product | 1-(2-Tetrahydropyranyloxy)-4-acetoxy-5-(4-fluorophenoxy)-trans-2-pentene | O1C(CCCC1)OC\C=C\C(COC1=CC=C(C=C1)F)OC(C)=O | C18H23FO5
